US05583146
To a stirred solution of 3-hydroxymethylpiperidine (15.1 g, 131 mmol) and Et3N (21.9 mL, 158 mmol) in 100 mL of dichloromethane was added dropwise a solution of di-t-butyl dicarbonate (31.5 g, 144 mmol) in 100 mL of dichloromethane over 1 h. The reaction was stirred at room temperature for 18 h and then diluted with 200 mL of dichloromethane. The resulting solution was washed with 1N HCl solution (3×100 mL), saturated NaHCO3 solution (2×100 mL) and brine (1×100 mL). The organic layer was dried (MgSO4), filtered and concentrated in vacuo to give N-Boc-3-hydroxymethylpiperidine (27.0 g, 96%).

reactant | 3-hydroxymethylpiperidine | 131 mmol, 15.1 g | OCC1CNCCC1 | C6H13NO
reactant | Et3N | 158 mmol, 21.9 mL | CCN(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 144 mmol, 31.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | N-Boc-3-hydroxymethylpiperidine | 27.0 g, 96% | C(=O)(OC(C)(C)C)N1CC(CCC1)CO | C11H21NO3
